US06087304
3.6 g of methyl 6-(2-diisopropylaminoethoxy)-2-naphthoate and 1.8 g of KOH are heated under reflux for 5 h in methanol. After concentrating and taking up the residue in water, the mixture is adjusted to pH 6 using hydrochloric acid, whereupon the product precipitates. 3.3 g of 6-(2-diisopropylaminoethoxy)-2-naphthoic acid are obtained;

reactant | methyl 6-(2-diisopropylaminoethoxy)-2-naphthoate | 3.6 g | C(C)(C)N(CCOC=1C=C2C=CC(=CC2=CC1)C(=O)OC)C(C)C | C20H27NO3
reactant | KOH | 1.8 g | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 6-(2-diisopropylaminoethoxy)-2-naphthoic acid | 3.3 g | C(C)(C)N(CCOC=1C=C2C=CC(=CC2=CC1)C(=O)O)C(C)C | C19H25NO3
